US07122543B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(2-methoxyphenyl)benzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(2-methoxyphenyl)benzoic acid (1.21 g, 2.6769 mmol) was dissolved in a mixed solvent of acetonitrile (30 ml) and water (10 ml), then CAN (3.60 g, 6.6914 mmol) was added thereto at room temperature and the mixture was stirred for 3 hour. The reaction solution was poured into water and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (5% methanol-methylene chloride) to give the title compound (859 mg, 2.0355 mmol, 76%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(2-methoxyphenyl)benzoic acid | 2.6769 mmol, 1.21 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=C(C=CC=C2)OC)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | CAN | 6.6914 mmol, 3.60 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(2-methoxyphenyl)benzoic acid | 2.0355 mmol, 859 mg, 76% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=C(C=CC=C1)OC)C)=O | C24H22O7
